US08022062B2
(2-Azido-1,1-difluoro-ethyl)-benzene:
Heat at 60° C. a solution of 2,2-difluoro-2-phenyl-ethyl trifluoromethanesulfonate (759 mg, 2.617 mmol) and sodium azide (357 mg, 5.496 mmol) in anhydrous DMF (10 mL) under nitrogen for 3 h. Cool the reaction mixture to room temperature. Dilute with water and extract the aqueous phase twice with diethyl ether. Wash the combined organic extracts twice with ice-cold water, dry over Na2SO4, filter and concentrate in vacuo to provide the desired intermediate as an oil (475 mg, 99%) that was used without any further purification.

reactant | 2,2-difluoro-2-phenyl-ethyl trifluoromethanesulfonate | 2.617 mmol, 759 mg | FC(S(=O)(=O)OCC(C1=CC=CC=C1)(F)F)(F)F | C9H7F5O3S
reactant | sodium azide | 5.496 mmol, 357 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (2-Azido-1,1-difluoro-ethyl)-benzene | 475 mg, 99% | N(=[N+]=[N-])CC(F)(F)C1=CC=CC=C1 | C8H7F2N3
